US04145432
To a solution of diethyl 2-methyl-4-(2-trifluoromethylphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (1.0 g) in ethanol (20 ml) was gradually added sodium borohydride (92 mg) under stirring and ice-cooling and the resultant mixture was further stirred for 25 minutes. The resultant mixture was adjusted with 0.1 N hydrochloric acid to pH 4 to 5. The ethanol was removed under reduced pressure without heating so much, and water was added to the residue to give crystals. The crystals were collected by filtration to give crude crystals (1.2 g). These were recrystalized from a mixture of diethyl ether and n-hexane to give pure crystals of diethyl 2-methyl-4-(2-trifluoromethylphenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate, m.p. 147° to 148.5° C.

reactant | diethyl 2-methyl-4-(2-trifluoromethylphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.0 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)C=O | C20H20F3NO5
reactant | sodium borohydride | 92 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 0.1 N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | diethyl 2-methyl-4-(2-trifluoromethylphenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)CO | C20H22F3NO5
